US04994486
1-Aminomethyl-1-hydroxy-5-methoxy-3-phenyl-1,2,3,4-tetrahydronaphthalene (2.0 g, 7.2 mmol), from Step 1, was heated at reflux temperature for 2 h in 75 mL of isopropyl alcohol saturated with hydrogen chloride. The resultant solution was concentrated and the solid residue was triturated with hot toluene to give 0.72 g (33% yield) of 1-aminomethyl-5-methoxy-3-phenyl-3,4-dihydronaphthalene hydrochloride, m.p. 193°-196° C.; 1H NMR (d6-DMSO) δ 2.78 (dd, 1H), 3.14 (dd, 1H), 3.2-3.5 (m, 2H+H2O), 3.84 (s, 3H), 3.93 (d, 1H), 6.2 (m, 1H), 6.54 (d, 1H), 6.60 (d, 1H), 6.75 (d, 1H), 7.2-7.5 (m, 5H).

reactant | 1-Aminomethyl-1-hydroxy-5-methoxy-3-phenyl-1,2,3,4-tetrahydronaphthalene | 7.2 mmol, 2.0 g | NCC1(CC(CC2=C(C=CC=C12)OC)C1=CC=CC=C1)O | C18H21NO2
reactant | hydrogen chloride | Cl | ClH
solvent | isopropyl alcohol | 75 mL | C(C)(C)O | C3H8O
product | 1-aminomethyl-5-methoxy-3-phenyl-3,4-dihydronaphthalene hydrochloride | 0.72 g, 33% yield | Cl.NCC1=CC(CC2=C(C=CC=C12)OC)C1=CC=CC=C1 | InChI=1S/C18H19NO.ClH/c1-20-18-9-5-8-16-15(12-19)10-14(11-17(16)18)13-6-3-2-4-7-13;/h2-10,14H,11-12,19H2,1H3;1H
